US08791161B2
N-[5-chloro-2-(methylthio)phenyl]-4-methyl-3-nitrobenzenesulfonamide
Following General Procedure B, the title compound (197 mg, 61%) was prepared from 5-Chloro-2-methylsulfanyl-phenylamine (150 mg, 0.87 mmol) and 4-Methyl-3-nitro-benzenesulfonyl chloride (235 mg, 0.87 mmol).

reactant | 5-Chloro-2-methylsulfanyl-phenylamine | 0.87 mmol, 150 mg | ClC=1C=CC(=C(C1)N)SC | C7H8ClNS
reactant | 4-Methyl-3-nitro-benzenesulfonyl chloride | 0.87 mmol, 235 mg | CC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H6ClNO4S
product | N-[5-chloro-2-(methylthio)phenyl]-4-methyl-3-nitrobenzenesulfonamide | 197 mg, 61% | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-])SC | C14H13ClN2O4S2
